US04337270
In a mixture of 3.4 g of 4-chloroanthranilic acid in 50 ml of tetrahydrofuran is dissolved 3 ml of triethylamine, to this mixture is added slowly a solution of 4.5 g of 3,4-dimethoxycinnamoylchloride in tetrahydrofuran under room temperature, and this solution is stirred at room temperature for 5 hours. The reaction mixture is concentrated under a reduced pressure, to the residue is added water and hydrochloric acid is added to make the mixture the weakly acidic. The precipitated crystals are collected by filtration and recrystallized from a mixture of dimethylformamide and water to obtain 5.9 g of N-(3,4-dimethoxycinnamoyl)-4-chloroanthranilic acid as colorless prisms.

reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4-dimethoxycinnamoylchloride | 4.5 g | COC=1C=C(C=CC(=O)Cl)C=CC1OC | C11H11ClO3
reactant | 4-chloroanthranilic acid | 3.4 g | ClC=1C=C(C(C(=O)O)=CC1)N | C7H6ClNO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(3,4-dimethoxycinnamoyl)-4-chloroanthranilic acid | 5.9 g | COC=1C=C(C=CC(=O)NC=2C(C(=O)O)=CC=C(C2)Cl)C=CC1OC | C18H16ClNO5
